US05061712
If, for example, 1-cyclopropyl-6,7,8-trifluoro1,4-dihydro-4-oxo-3-quinolinecarboxylic acid is reacted with 3-(2,2-dimethylpropylideneamino)-pyrrolidine and the reaction product is treated with hydrochloric acid, 7-(3-amino-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro- 4-oxo-3-quinolinecarboxylic acid hydrochloride is obtained.

reactant | 1-cyclopropyl-6,7,8-trifluoro1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(2,2-dimethylpropylideneamino)-pyrrolidine | CC(C=NC1CNCC1)(C)C | C9H18N2
reactant | hydrochloric acid | Cl | ClH
product | 7-(3-amino-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro- 4-oxo-3-quinolinecarboxylic acid hydrochloride | Cl.NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | InChI=1S/C17H17F2N3O3.ClH/c18-12-5-10-14(13(19)15(12)21-4-3-8(20)6-21)22(9-1-2-9)7-11(16(10)23)17(24)25;/h5,7-9H,1-4,6,20H2,(H,24,25);1H
